US07795283B2
Intermediate 72: tert-Butyl 4-(5-aminopyrimidin-2-yl)piperazine-1-carboxylate
Bis(dibenzylideneacetone)palladium (0.17 g, 0.29 mmol) was added to a mixture of tert-butyl 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylate (6.15 g, 17.92 mmol, prepared as described in Patent Application WO 2001087870), sodium tert-butoxide (2.41 g, 25.09 mmol), benzophenone imine (3.61 g, 21.50 mmol), and BINAP (0.34 g, 21.5 mmol) in anhydrous toluene (150 mL). The mixture was heated to 80° C. and stirred for 16 h under an atmosphere of nitrogen. The mixture was diluted with EtOAc (100 mL) and filtered through diatomaceous earth then concentrated by evaporation to give an oil. This intermediate was stirred together with THF (150 mL) and 2N 1HCl (100 mL) for 2 h. The mixture was then neutralised by the addition of saturated aqueous sodium hydrogen carbonate solution and the mixture was extracted with EtOAc (3×100 mL). The organic extracts were dried, filtered, concentrated by evaporation and triturated with hexane to give the title compound as a solid (4.6 g, 92%); 1H NMR δ: 7.90 (2H, s), 4.61 (2H, s), 3.51-3.45 (4H, m), 3.40-3.30 (4H, m), 1.20 (9H, s); MS m/e MH+: 280.

reactant | tert-butyl 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylate | 17.92 mmol, 6.15 g | BrC=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H19BrN4O2
reactant | sodium tert-butoxide | 25.09 mmol, 2.41 g | CC(C)([O-])C.[Na+]
reactant | benzophenone imine | 21.50 mmol, 3.61 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | BINAP | 21.5 mmol, 0.34 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Bis(dibenzylideneacetone)palladium | 0.29 mmol, 0.17 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(5-aminopyrimidin-2-yl)piperazine-1-carboxylate | 4.6 g, 92% | NC=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H21N5O2
